US06897208B2
2-(1H-indazol-3-yl)-1H-benzimidazole-5-carboxylic acid N-methylamide
Starting with 20 mg of 2-(1H-indazol-3-yl)-1H-benzimidazole-5-carboxylic acid and 71.8 μl of a methylamine solution (2 M in tetrahydrofuran), 14.8 mg of expected product are obtained.

reactant | 2-(1H-indazol-3-yl)-1H-benzimidazole-5-carboxylic acid | 20 mg | N1N=C(C2=CC=CC=C12)C1=NC2=C(N1)C=CC(=C2)C(=O)O | C15H10N4O2
reactant | methylamine | 2 M, 71.8 μl | CN | CH5N
product | 2-(1H-indazol-3-yl)-1H-benzimidazole-5-carboxylic acid N-methylamide | 14.8 mg | CNC(=O)C1=CC2=C(NC(=N2)C2=NNC3=CC=CC=C23)C=C1 | C16H13N5O
